US08420052B2
A mixture of 6-Bromo-2-(2-fluoroethylthio)benzo[d]thiazole (60 mg, 0.2 mmol), tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate (68 mg, 0.2 mmol), and tetrakis(triphenylphosphine)palladium (11 mg, 0.01 mmol) in 2 mL dioxane and 0.5 mL of a 1 M Na2CO3 aqueous solution was heated at 95° C. in a microwave reactor for 10 min. After cooling to rt, it was diluted with EtOAc (30 mL) and washed with brine (30 mL), dried over MgSO4 and concentrated. The crude product was purified with silica chromatography (5% to 30% EtOAc in hexane) to afford tert-butyl 4-(2-(2-fluoroethylthio)benzo[d]thiazol-6-yl)phenyl(methyl)carbamate as a clear wax (15 mg, 18%). MS (ESI) m/z 419 (M+H+).

reactant | 6-Bromo-2-(2-fluoroethylthio)benzo[d]thiazole | 0.2 mmol, 60 mg | BrC1=CC2=C(N=C(S2)SCCF)C=C1 | C9H7BrFNS2
reactant | tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate | 0.2 mmol, 68 mg | CN(C(OC(C)(C)C)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO4
reactant | Na2CO3 | 1 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.01 mmol, 11 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(2-(2-fluoroethylthio)benzo[d]thiazol-6-yl)phenyl(methyl)carbamate | FCCSC=1SC2=C(N1)C=CC(=C2)C2=CC=C(C=C2)N(C(OC(C)(C)C)=O)C | C21H23FN2O2S2
